US06329400B1
To a solution of (2R,3R)-2-(2-propyne-1-yl)-3-hydroxybutanoic acid (3.0 g, 21.13 mmol) in dichloromethane (50 mL) is added 2-tetrahydropyranyloxyamine (3.0 g, 25.35 mmol) and EDC (4.5 g, 23.24 mmol). The resulting solution is stirred at 23° C. for 4 h, then diluted with dichloromethane (100 mL) and washed with 1 M hydrochloric acid. The combined organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide (2R,3R)-2-(2-propyne-1-yl)-3-hydroxybutanoic acid 2-tetrahydropyranyloxyamide as a foam (1.9 g, 37% yield). 1H NMR (400 MHz, CDCl3) δ 8.82 (bs, 1H), 4.96 (m, 1H), 3.94 (m, 2H), 3.62 (m, 1H), 2.64 (m, 1H), 2.56 (m, 1H), 2.23 (m, 1H), 2.04 (m, 1H), 1.82 (m, 2H), 1.61 (m, 4H), 1.23 (d, 3H) ppm. ESI-MS m/z 240.4 (M−H)−.

reactant | (2R,3R)-2-(2-propyne-1-yl)-3-hydroxybutanoic acid | 21.13 mmol, 3.0 g | C(C#C)[C@@H](C(=O)O)[C@@H](C)O | C7H10O3
reactant | 2-tetrahydropyranyloxyamine | 25.35 mmol, 3.0 g | O1C(CCCC1)ON | C5H11NO2
reactant | EDC | 23.24 mmol, 4.5 g
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2R,3R)-2-(2-propyne-1-yl)-3-hydroxybutanoic acid 2-tetrahydropyranyloxyamide | 1.9 g, 37% yield | O1C(CCCC1)ONC([C@@H]([C@@H](C)O)CC#C)=O | C12H19NO4
